US05639914
70.0 g (0.47 mol) of p-isobutylaniline was dissolved in 126 ml of glacial acetic acid. 59.9 g (0.58 mol) of acetic anhydride was then added dropwise to the solution at a temperature of 30° C. After the completion of dropwise addition, the reaction mixture was then allowed to undergo reaction at a temperature of 40° C. for 1 hour. The reaction solution was then poured into 500 ml of water. The resulting crystal was filtered off, washed with water, and then dried. The crystal thus obtained was then recrystallized from a mixture of 140 ml of toluene and 700 ml of n-hexane to obtain 60.4 g (yield: 67.3%) of p-isobutylacetanilide. The melting point of the crystal was from 124.5° C. to 125.0° C.

reactant | p-isobutylaniline | 0.47 mol, 70.0 g | C(C(C)C)C1=CC=C(N)C=C1 | C10H15N
reactant | acetic anhydride | 0.58 mol, 59.9 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 126 ml | C(C)(=O)O | C2H4O2
product | p-isobutylacetanilide | 60.4 g, yield: 67.3% | C(C(C)C)C1=CC=C(NC(C)=O)C=C1 | C12H17NO
